US08058432B2
Step 2: Synthesis of Nα-(2,6-dichlorobenzoyl)-4-{1-methyl-6-(N-formyl-N-methylamino-methyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester
There was added, to 21.26 L of N,N-dimethylformamide (DMF), 5.445 kg of Nα-(2,6-dichlorobenzoyl)-4-{6-(N-formyl-N-methylamino-methyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester, the resulting mixture was stirred at 23° C. and in a nitrogen gas stream to dissolve the isopropyl ester compound. Then 2.46 kg of potassium carbonate and 2.491 kg of methyl p-toluene-sulfonate were added to the resulting solution and the mixture was stirred with heating at 55 to 65° C. After the confirmation of the progress of the N-methylation reaction by HPLC, 2.14 kg of acetic acid was added to the mixture and subsequently the mixture was stirred with heating at 50° C. for one hour. To the reaction solution, there was dropwise added 10.9 L of water, followed by the addition of 6 g of seed crystals and stirring of the mixture at 50° C. for 2 hours. To the resulting slurry, there was further added 10.9 L of water, the mixture was cooled to 25° C. and stirred overnight. The precipitates thus obtained were recovered by the filtration using a centrifuge and the resulting cake was washed with 21.8 kg of water. The resulting wet crystals were dried under reduced pressure at 60° C. to thus give 5.235 kg of the title compound as a white crystalline solid (yield: 94%).

reactant | N,N-dimethylformamide | 21.26 L | CN(C=O)C | C3H7NO
reactant | Nα-(2,6-dichlorobenzoyl)-4-{6-(N-formyl-N-methylamino-methyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester | 5.445 kg | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N1C(NC2=CC=C(C=C2C1=O)CN(C)C=O)=O)=O | C30H28Cl2N4O6
reactant | potassium carbonate | 2.46 kg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl p-toluene-sulfonate | 2.491 kg | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | water | 10.9 L | O | H2O
solvent | water | 10.9 L | O | H2O
solvent | acetic acid | 2.14 kg | C(C)(=O)O | C2H4O2
product | Nα-(2,6-dichlorobenzoyl)-4-{1-methyl-6-(N-formyl-N-methylamino-methyl)-quinazoline-2,4[1H,3H]-dion-3-yl}-L-phenylalanine isopropyl ester | 5.235 kg, yield: 94% | C(C)(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N1C(N(C2=CC=C(C=C2C1=O)CN(C)C=O)C)=O)=O | C31H30Cl2N4O6
